US08686022B2
1-(4-methoxy-phenyl)-2-methyl-propan-1-ol
A solution of 1.5 ml 4-methoxy-benzaldehyde in 10 ml of toluene is added dropwise at 8° C. to 7.4 ml of a 2 M solution of isopropylmagnesium chloride in tetrahydrofuran. Then the mixture is allowed to come up to ambient temperature and stirred for 1 hour. Then the reaction is stopped by the addition of semisaturated aqueous ammonium chloride solution. The phases are separated and the aqueous phase is extracted with toluene. The combined organic phases are washed with semisaturated aqueous ammonium chloride solution and dried on magnesium sulphate. The solvents are eliminated in vacuo and the product thus obtained is further reacted directly.

reactant | 4-methoxy-benzaldehyde | 1.5 ml | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(4-methoxy-phenyl)-2-methyl-propan-1-ol | COC1=CC=C(C=C1)C(C(C)C)O | C11H16O2
